US07629365B2
1-Bromo-4-({4-[(trifluoromethyl)oxy]phenyl}oxy)benzene
A solution of 4-bromophenol (0.173 g) in 4 mL of 1-methyl-2-pyrrolidone under argon atmosphere was treated with 4-(trifluoromethoxy)iodobenzene (0.313 mL), 2,2,6,6-tetramethylheptane-3,5-dione (0.046 mL) and caesium carbonate (0.652 g). The slurry was degassed by bubbling argon for 15 min and copper(I) chloride (0.099 g) was added. The reaction mixture was degassed by bubbling argon for 15 min, then heated to 100° C. under argon for 5 h. The reaction mixture was cooled to room temperature and added dropwise to 30 mL of tert-butyl-methyl-ether. The slurry was filtered and the solids washed with tert-butyl-methyl-ether (3×20 mL). The combined filtrates were washed subsequently with 1N NaOH (50 mL), water (50 mL), 2N HCl (50 mL), 1N HCl (50 mL), water (50 mL) and brine (50 mL). The resulting organic layer was dried over Na2SO4 and concentrated to give a crude product which was purified by column chromatography on silica gel eluting with hexane to afford 0.15 g of the title compound as a colourless liquid.

reactant | 4-bromophenol | 0.173 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 4-(trifluoromethoxy)iodobenzene | 0.313 mL | FC(OC1=CC=C(C=C1)I)(F)F | C7H4F3IO
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 0.046 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | caesium carbonate | 0.652 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1-methyl-2-pyrrolidone | 4 mL | CN1C(CCC1)=O | C5H9NO
product | 1-Bromo-4-({4-[(trifluoromethyl)oxy]phenyl}oxy)benzene | 0.15 g | BrC1=CC=C(C=C1)OC1=CC=C(C=C1)OC(F)(F)F | C13H8BrF3O2
